US06759420B1
d) 2-Amino-N-(1-carbamimidoyl-piperidin-4-ylmethyl)-2-(S)-cyclohexyl-acetamide hydrochloric acid salt
{[(1-Carbamimidoyl-piperidine-4-ylmethyl)-carbamoyl]-(S)-cyclohexyl-methyl}-carbamic acid tert butyl ester hydrochloric acid salt (3.64 g crude material) was stirred with aqueous trifluoroacetic acid (90%) at room temperature for 20 hours, evaporated, dissolved in aqueous hydrochloric acid and lyophilized to yield 2.69 g (89%) of the desired product, MS m/z: 296 (M+H)+, 148 (M+2H)2+.

reactant | {[(1-Carbamimidoyl-piperidine-4-ylmethyl)-carbamoyl]-(S)-cyclohexyl-methyl}-carbamic acid tert butyl ester hydrochloric acid salt | 3.64 g | Cl.C(C)(C)(C)OC(N[C@@H](C1CCCCC1)C(NCC1CCN(CC1)C(N)=N)=O)=O
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
product | 2-Amino-N-(1-carbamimidoyl-piperidin-4-ylmethyl)-2-(S)-cyclohexyl-acetamide hydrochloric acid salt | 2.69 g, 89% | Cl.N[C@H](C(=O)NCC1CCN(CC1)C(N)=N)C1CCCCC1 | InChI=1S/C15H29N5O.ClH/c16-13(12-4-2-1-3-5-12)14(21)19-10-11-6-8-20(9-7-11)15(17)18;/h11-13H,1-10,16H2,(H3,17,18)(H,19,21);1H/t13-;/m0./s1
